US08058299B2
To a solution of 2-amino-3-picoline (26 μL, 0.204 mmol) and triethylamine (63 □L, 0.448 mmol) in 5 mL methylene chloride at −40° C. was slowly added a 20% solution of phosgene in THF (118 μL, 0.224 mmol). The reaction mixture was stirred at −40° C. for 1 hr and then a solution of 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperazin-1-yl-phenyl)-amide hydrochloride (100 mg, 0.204 mmol) and triethylamine (57 μl, 0.408 mmol) in 8 ml of 1-methyl-2-pyrrolidinone was slowly added and stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate and washed with saturated sodium bicarbonate solution and water. The organic layer was dried over magnesium sulfate, filtered and evaporated to dryness. The residue was purified by flash chromatography (eluting with ethyl acetate/hexane) to yield 4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperazine-1-carboxylic acid (3-methyl-pyridin-2-yl)-amide (18 mg, 16%). ES-MS calcd for C28H25F3N6O3 (m/e) 550.6, obsd 551.1 (M+H).

reactant | 2-amino-3-picoline | 0.204 mmol, 26 μL | NC1=NC=CC=C1C | C6H8N2
reactant | triethylamine | 0.448 mmol | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | THF | 0.224 mmol, 118 μL | C1CCOC1 | C4H8O
reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperazin-1-yl-phenyl)-amide hydrochloride | 0.204 mmol, 100 mg | Cl.N1(CCNCC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1
reactant | triethylamine | 0.408 mmol, 57 μl | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | 1-methyl-2-pyrrolidinone | 8 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperazine-1-carboxylic acid (3-methyl-pyridin-2-yl)-amide | 18 mg, 16% | CC=1C(=NC=CC1)NC(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C28H25F3N6O3
